.title KiCad schematic
R34 +12V Net-_D16-Pad1_ 3.3k
D16 Net-_D16-Pad1_ GND LED
C20 +12V GND 100n
U9 +15V +12V GND 7812
D11 Net-_D11-Pad1_ Net-_D11-Pad2_ DIODE
D9 Net-_D9-Pad1_ Net-_D9-Pad2_ DIODE
D15 Net-_D15-Pad1_ Net-_D15-Pad2_ DIODE
D13 Net-_D13-Pad1_ Net-_D13-Pad2_ DIODE
D14 Net-_D14-Pad1_ Net-_D14-Pad2_ DIODE
D12 Net-_D12-Pad1_ Net-_D12-Pad2_ DIODE
D10 Net-_D10-Pad1_ Net-_D10-Pad2_ DIODE
D8 Net-_D8-Pad1_ Net-_D8-Pad2_ DIODE
U4 +12V Net-_C3-Pad2_ Net-_D8-Pad2_ Net-_C3-Pad1_ Net-_R7-Pad1_ Net-_U3-Pad4_ GND Net-_D10-Pad2_ LM5104
U7 +12V Net-_C7-Pad2_ Net-_D12-Pad2_ Net-_C7-Pad1_ Net-_R14-Pad1_ Net-_U6-Pad4_ GND Net-_D14-Pad2_ LM5104
C19 +15V GND 4700u
U6 Net-_U6-Pad1_ /MOTOR/DIR2 /MOTOR/DIR2 Net-_U6-Pad4_ Net-_U6-Pad1_ Net-_U6-Pad10_ GND /MOTOR/PWM2 /MOTOR/PWM2 Net-_U6-Pad10_ /MOTOR/DIR2 Net-_U6-Pad10_ Net-_U6-Pad13_ +5VD 74HC02
U3 Net-_U3-Pad1_ /MOTOR/DIR1 /MOTOR/DIR1 Net-_U3-Pad4_ Net-_U3-Pad1_ Net-_U3-Pad10_ GND /MOTOR/PWM1 /MOTOR/PWM1 Net-_U3-Pad10_ /MOTOR/DIR1 Net-_U3-Pad10_ Net-_U3-Pad13_ +5VD 74HC02
R14 Net-_R14-Pad1_ GND 220k
C9 +12V GND 100n
Q5 Net-_D12-Pad1_ Net-_C7-Pad1_ +15V MOS_N
Q7 Net-_D14-Pad1_ /MOTOR/ADC2 Net-_C7-Pad1_ MOS_N
R12 Net-_D12-Pad1_ Net-_D12-Pad2_ 47
C7 Net-_C7-Pad1_ Net-_C7-Pad2_ 100n
R15 Net-_D14-Pad1_ Net-_D14-Pad2_ 47
R16 Net-_D15-Pad1_ Net-_D15-Pad2_ 47
C8 Net-_C8-Pad1_ Net-_C8-Pad2_ 100n
R13 Net-_D13-Pad1_ Net-_D13-Pad2_ 47
Q8 Net-_D15-Pad1_ /MOTOR/ADC2 Net-_C8-Pad1_ MOS_N
Q6 Net-_D13-Pad1_ Net-_C8-Pad1_ +15V MOS_N
C10 +12V GND 100n
R17 Net-_R17-Pad1_ GND 220k
U8 +12V Net-_C8-Pad2_ Net-_D13-Pad2_ Net-_C8-Pad1_ Net-_R17-Pad1_ Net-_U6-Pad13_ GND Net-_D15-Pad2_ LM5104
R18 /MOTOR/ADC2 GND 0.1
R11 /MOTOR/ADC1 GND 0.1
P4 GND Net-_C3-Pad1_ Net-_C4-Pad1_ Net-_C7-Pad1_ Net-_C8-Pad1_ +15V CONN_6
U5 +12V Net-_C4-Pad2_ Net-_D9-Pad2_ Net-_C4-Pad1_ Net-_R10-Pad1_ Net-_U3-Pad13_ GND Net-_D11-Pad2_ LM5104
R10 Net-_R10-Pad1_ GND 220k
C6 +12V GND 100n
Q2 Net-_D9-Pad1_ Net-_C4-Pad1_ +15V MOS_N
Q4 Net-_D11-Pad1_ /MOTOR/ADC1 Net-_C4-Pad1_ MOS_N
R6 Net-_D9-Pad1_ Net-_D9-Pad2_ 47
C4 Net-_C4-Pad1_ Net-_C4-Pad2_ 100n
R9 Net-_D11-Pad1_ Net-_D11-Pad2_ 47
R8 Net-_D10-Pad1_ Net-_D10-Pad2_ 47
C3 Net-_C3-Pad1_ Net-_C3-Pad2_ 100n
R5 Net-_D8-Pad1_ Net-_D8-Pad2_ 47
Q3 Net-_D10-Pad1_ /MOTOR/ADC1 Net-_C3-Pad1_ MOS_N
Q1 Net-_D8-Pad1_ Net-_C3-Pad1_ +15V MOS_N
C5 +12V GND 100n
R7 Net-_R7-Pad1_ GND 220k
K5 GND +5VD Net-_K5-Pad3_ CONN_3
K4 GND +5VD Net-_K4-Pad3_ CONN_3
P8 GND Net-_P8-Pad2_ +5VD Net-_P8-Pad4_ CONN_4
SW1 Net-_K1-Pad2_ GND SW_PUSH_SMALL
R33 +5VD /PIC30F4013/EN2 4.7k
R32 +5VD /PIC30F4013/EN1 4.7k
P6 /PIC30F4013/EN1 GND CAVALIER
P7 /PIC30F4013/EN2 GND CAVALIER
P5 GND Net-_P5-Pad2_ +5VD Net-_P5-Pad4_ CONN_4
D7 Net-_D7-Pad1_ Net-_D7-Pad2_ LED
D6 Net-_D6-Pad1_ Net-_D6-Pad2_ LED
D5 Net-_D5-Pad1_ Net-_D5-Pad2_ LED
R31 Net-_R28-Pad2_ GND 1.5k
R30 Net-_R27-Pad2_ GND 1.5k
R28 Net-_D7-Pad2_ Net-_R28-Pad2_ 1.5k
R27 Net-_D6-Pad2_ Net-_R27-Pad2_ 1.5k
R26 Net-_D5-Pad2_ Net-_R26-Pad2_ 1.5k
R29 Net-_R26-Pad2_ GND 1.5k
D3 Net-_D3-Pad1_ Net-_D3-Pad2_ LED
D4 Net-_D4-Pad1_ Net-_D4-Pad2_ LED
D2 Net-_D2-Pad1_ Net-_D2-Pad2_ LED
R25 Net-_R22-Pad2_ GND 1.5k
R24 Net-_R21-Pad2_ GND 1.5k
R23 Net-_R20-Pad2_ GND 1.5k
R22 Net-_D4-Pad2_ Net-_R22-Pad2_ 1.5k
R21 Net-_D3-Pad2_ Net-_R21-Pad2_ 1.5k
R20 Net-_D2-Pad2_ Net-_R20-Pad2_ 1.5k
R19 Net-_D1-Pad2_ GND 1k
D1 +5VD Net-_D1-Pad2_ Vert
C18 +5VD GND 47u
C11 +5VD GND 6.8n
C12 +5VD GND 6.8n
C13 +5VD GND 6.8n
C17 +5VD GND 6.8n
C16 +5VD GND 6.8n
C15 +5VD GND 6.8n
C14 +5VD GND 6.8n
K3 Net-_D5-Pad1_ Net-_D6-Pad1_ Net-_D7-Pad1_ CONN_3
K2 Net-_D2-Pad1_ Net-_D3-Pad1_ Net-_D4-Pad1_ CONN_3
U2 +5VD /PIC30F4013/EN1 /PIC30F4013/EN2 /PIC30F4013/D0 /PIC30F4013/OSC /PIC30F4013/SEL1 /PIC30F4013/OE NC_01 NC_02 /PIC30F4013/D7 /PIC30F4013/RSTxy /PIC30F4013/RSTxy Net-_R27-Pad2_ Net-_R21-Pad2_ Net-_R20-Pad2_ Net-_R26-Pad2_ Net-_R22-Pad2_ GND Net-_R28-Pad2_ /PIC30F4013/D6 /PIC30F4013/D5 /PIC30F4013/D4 GND NC_03 NC_04 /PIC30F4013/SEL2 NC_05 NC_06 /PIC30F4013/D3 /PIC30F4013/D2 /PIC30F4013/D1 /PIC30F4013/X/Y HCTL-2032
J1 /PIC30F4013/RST +5VD GND /PIC30F4013/PGD /PIC30F4013/PGC NC_07 NC_08 NC_09 RJ12
P2 GND +5VD Net-_P1-Pad1_ Net-_P2-Pad4_ CONN_4
R4 +5VD Net-_P3-Pad2_ 2.1k
R3 +5VD Net-_P1-Pad2_ 2.1k
P3 Net-_P2-Pad4_ Net-_P3-Pad2_ CAVALIER
P1 Net-_P1-Pad1_ Net-_P1-Pad2_ CAVALIER
K1 GND Net-_K1-Pad2_ CONN_2
R2 /PIC30F4013/RST Net-_K1-Pad2_ 15
R1 +5VD /PIC30F4013/RST 10k
C2 /PIC30F4013/OSC GND 33p
C1 Net-_C1-Pad1_ GND 33p
X1 Net-_C1-Pad1_ /PIC30F4013/OSC 7.3728Mhz
U1 /PIC30F4013/RST /PIC30F4013/D0 /PIC30F4013/D1 /PIC30F4013/D2 /PIC30F4013/D3 /MOTOR/ADC2 /MOTOR/ADC1 /PIC30F4013/PGC /PIC30F4013/PGD /PIC30F4013/D4 +5VD GND Net-_C1-Pad1_ /PIC30F4013/OSC Net-_P8-Pad2_ Net-_P8-Pad4_ /PIC30F4013/X/Y Net-_K4-Pad3_ /MOTOR/DIR1 GND +5VD /MOTOR/PWM1 Net-_K5-Pad3_ /PIC30F4013/RSTxy Net-_P1-Pad1_ Net-_P2-Pad4_ Net-_P5-Pad2_ Net-_P5-Pad4_ /PIC30F4013/SEL2 /PIC30F4013/SEL1 GND +5VD /MOTOR/DIR2 /MOTOR/PWM2 /PIC30F4013/OE /PIC30F4013/D7 /PIC30F4013/D6 /PIC30F4013/D5 GND +5VD DSPIC30F4013
.end
